US04997840
Dimethyl sulphate (26.1ml) was added to a stirred suspension of 4-hydroxy-7-trifluoromethylquinol-3-yl methanesulphonate (7.19 g) and potassium carbonate (75.5 g) in dry 2-butanone (350 ml) and the resultant mixture was heated under reflux for 5 hours. The solvent was removed by distillation and the resultant residue was extracted with dichloromethane (600 ml then 400 ml). The combined extracts were dried over magnesium sulphate and the solvent was removed by distillation. The residue was purified by flash chromatography on a silica gel column eluted with dichloromethane:methanol (75:1) followed by flash chromatography on a silica gel column eluted with ethyl acetate and crystallisation from industrial methylated spirit (150 ml) to give the novel compound 1-methyl-4-oxo-7-trifluoromethyl-1,4-dihydroquinol-3-yl methanesulphonate, m.p. 218°.

reactant | Dimethyl sulphate | 26.1ml | S(=O)(=O)(OC)OC | C2H6O4S
reactant | 4-hydroxy-7-trifluoromethylquinol-3-yl methanesulphonate | 7.19 g | CS(=O)(=O)OC=1C=NC2=CC(=CC=C2C1O)C(F)(F)F | C11H8F3NO4S
reactant | potassium carbonate | 75.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | 350 ml | CC(CC)=O | C4H8O
product | 1-methyl-4-oxo-7-trifluoromethyl-1,4-dihydroquinol-3-yl methanesulphonate | CS(=O)(=O)OC1=CN(C2=CC(=CC=C2C1=O)C(F)(F)F)C | C12H10F3NO4S
